US07666879B2
4-[4-(7-Chloro-imidazo[1,2-a]pyridin-3-yl)-phenyl]-N-(3-trifluoromethyl-phenyl)-butyramide
Suspend 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-N-(3-trifluoromethyl-phenyl)-butyramide (0.47 g, 1.15 mmol), 7-chloro-3-iodo-imidazo[1,2-a]pyridine (0.29 g, 1.05 mmol) and solid potassium carbonate (0.48 g, 3.45 mmol) in dioxane (4 mL) and water (2 mL). Deoxygenate the reaction contents with nitrogen for 10 minutes at room temperature. Add trans-dichlorobis(triphenylphosphine)palladium (II) (22 mg, 0.03 mmol) to the reaction. Fit a reflux condenser and heat the reaction to 105° C. over the weekend. Cool the reaction, dilute with dichloromethane and filter through Celite®. Concentrate the filtrate and then chromatograph on silica, using 0-3% methanol/ethyl acetate, to yield the product (301 mg, 57%). MS(ES), m/z 458 (M+1).

reactant | 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-N-(3-trifluoromethyl-phenyl)-butyramide | 1.15 mmol, 0.47 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCCC(=O)NC1=CC(=CC=C1)C(F)(F)F)C | C23H27BF3NO3
reactant | 7-chloro-3-iodo-imidazo[1,2-a]pyridine | 1.05 mmol, 0.29 g | ClC1=CC=2N(C=C1)C(=CN2)I | C7H4ClIN2
reactant | potassium carbonate | 3.45 mmol, 0.48 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.03 mmol, 22 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[4-(7-Chloro-imidazo[1,2-a]pyridin-3-yl)-phenyl]-N-(3-trifluoromethyl-phenyl)-butyramide | 301 mg, 57% | ClC1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)CCCC(=O)NC2=CC(=CC=C2)C(F)(F)F | C24H19ClF3N3O
